US04831143
0.38 g of 55% sodium hydride and 10 ml of dimethylformamide were weighed out and a solution of 2 g of 2-(4-hydroxyphenyl)-5-n-decylpyrimidine in 3 ml of dimethylformamide was added dropwise thereto under ice cooling. After the completion of the addition, the resulting mixture was stirred at room temperature for one hour. Then p-toluene-sulfonate of optically active 4-methyloctanol was added dropwise thereto and the resulting mixture was stirred at 90° C. for two hours. After cooling, the reaction mixture was poured into ice/water, extractd with diethyl ether and dried followed by removal of the solvent. The residue was purified on a silica gel column to thereby give 1.5 g of optically active 2-(4-(4-methyloctoxy)phenyl)-5-n-decylpyrimidine.

reactant | sodium hydride | 0.38 g | [H-].[Na+]
reactant | 2-(4-hydroxyphenyl)-5-n-decylpyrimidine | 2 g | OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCC | C20H28N2O
reactant | p-toluene-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | 4-methyloctanol | CC(CCCO)CCCC | C9H20O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-(4-methyloctoxy)phenyl)-5-n-decylpyrimidine | CC(CCCOC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCC)CCCC | C29H46N2O
